
**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET C3M0040120K Spice Library
****	Version 1.0 Date: 12-04-2020
****
***********************************************************
****	Revision record
****	Revision 1	Initial Release, Datasheet Rev 1, 10-2020
****
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S1 = Kelvin Source
****S2 = Power Source
***********************************************************

.subckt C3M0040120K d g s1 s2 Tj Tc
.param p11 = -8
.param p12 = 19
.param Rgint = 3.5

R1022	Tjc	0	1E6
E1022	Tjc	0 	value {limit(v(Tj),-55,260)}

R100	gk	s	1E6
E100	gk	s 	value {limit(v(g1,s),-8,19)}

e33		NET3	0	Value {-100.64n*V(Tjc)**3+34.691u*V(Tjc)**2-6.7557m*V(Tjc)+2.8904}
R_cc		NET3	0 	1E6

xgmos	d3 d1 gk s Tjc NET3 gmos_C3M0040120K

RS1		s1	sb	8.094m
Ls1 		sb	sv	5.008n

RS2		s2	sa	1.881m
Ls2 		sa	sv	3.1898n

Lv		sv	s	0.2n

R_g 		g1	g2	{Rgint}
RG		g	ga	11.851m
Lg 		ga	g2	7.1478n


Rd		d	da	87.416u
Ld 		da	d3      4.3659n
R_Ld		da	d3	5

Ed		Id	0	value {I(Vdrain_s)}
Rdd		Id	0	1E6

vdrain_s	d3	d1	0
Gheat		0	Tj	value = {abs((V(d1,s)*v(Id)))+abs((V(g1,g2)**2/Rgint))}

xCGD		d3	g1	cgdmos_C3M0040120K
CGS		g1	s	2895p

*e16		dd1	d1	value {10.5}
e15		dd1	d1	value {
+				if (V(gk,s)>V(NET3),
+					Limit(((1.019m*V(Tjc)**2+0.2116*V(Tjc)-238.19)*(V(gk,s)**2)+
+					(-25.46m*V(Tjc)**2-5.289*V(Tj)+5954.72)*v(gk,s)+
+					(0.1528*V(Tjc)**2+31.734*V(Tjc)-25728.3))/1000,-2.5,15)
+					,
+					0
+					)
+					}

D1		s	dd1	bodydiode_C3M0040120K
xCDS		d1	s	cds_C3M0040120K
*CDS1		d3	s	1p
R_DS1		d1	s	0.3G

R0 N1 Tj 63.78m
R1 N2 N1 0.1553
R2 N3 N2 99.42m
R3 Tc N3 0.1417

C0 Tj 0 1.31m
C1 N1 0 6.698m
C2 N2 0 19.41m
C3 N3 0 73.01m

.ends C3M0040120K
*****************************************

.subckt gmos_C3M0040120K d3 d1 gk s Tjc NET3

e2		NET2	0	Value {(71.09n*V(Tjc)**2-10.09u*V(Tjc)-1.33m)*V(gk,s)**3+
+				(-2.583u*V(Tjc)**2+344.7u*V(Tjc)+59.74m)*v(gk,s)**2+
+				(29.55u*V(Tjc)**2-3.893m*V(Tjc)-0.7684)*v(gk,s)+
+				(-117.3u*V(Tjc)**2+15.87m*V(Tjc)+3.533)
+			}
R_B		NET2	0 	1E6

e4		NET4	0	Value {Limit(((448.77u*V(Tjc)**2-71.7m*V(Tjc)-1.2427)*(V(gr)**2)+
+					(-9.968m*V(Tjc)**2+1.672*V(Tjc)+8.7759)*v(gr)+
+					(48.554m*V(Tjc)**2-8.941*V(Tjc)+147.98))/1200,0,1)
+					}
R_d		NET4	0 	1E6


e9		P9	0	value {Limit(((321.2u*V(Tjc)**2-0.1949*V(Tjc)+50.296)*(V(gr)**2)+
+					(-14.91m*V(Tjc)**2+6.421*V(Tjc)-1327.8)*v(gr)+
+					(0.1562*V(Tjc)**2-53.97*V(Tjc)+8765.9))/1000,0.001,10)
+					}
R9		P9	0	1E6

e5		NET5   0	Value {Limit(((-7.992u*V(Tjc)**2-1.176m*V(Tjc)+0.186)*V(gk,s)**4+
+				(371.24u*V(Tjc)**2+62.938m*V(Tjc)-6.9605)*V(gk,s)**3+
+				(-6.124m*V(Tjc)**2-1.085*V(Tjc)+66.642)*V(gk,s)**2+
+				(41.24m*V(Tjc)**2+6.029*V(Tjc)-2.302)*v(gk,s)+
+				(-84.028m*V(Tjc)**2-1.3701*V(Tjc)+95.627))/10000,0.001,13)
+			}
R_e		NET5	0 	1E6

R1001 gr 0	1E6
E1001 gr 0	value {limit(V(gk,s),-8,15)}

e_P8	P8	0	Value {0.0043}
R_R	P8	0 	1E6

********************************
G1 d1 s value {
+	if(V(s,d3)<0,
+		0
+		,
+		if (V(gk,s)<V(NET3),
+		0
+		,
+		-((((v(NET5)+v(NET4))*(v(gk,s)-V(NET3))))*(1+v(P9)*v(s,d3))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(s,d3)))))**2)))*(-1.8758u*V(Tjc)**2-4.145u*V(Tjc)+1.0332)
+		)
+			)
+			}
G2 d1 s value {
+	if(V(d3,s)<0,
+		0
+		,
+		if (V(gk,s)<V(NET3),
+		0
+		,
+		(((v(NET5))*(v(gk,s)-V(NET3))))*(1+v(P8)*v(d3,s))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(d3,s)))))**2))*(-1.8758u*V(Tjc)**2-4.145u*V(Tjc)+1.0332)
+		)
+			)
+			}

.ends gmos_C3M0040120K

****************************************

.subckt cgdmos_C3M0040120K d3 g1
.param k1=1074p
.param k2=0.5
.param ka=85
.param kb=0.4
.param kc=4.0277
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d3,g1),0,450))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**(-k2)
+		)*ddt(v(g1,d3))
+			}
R_CGD d1 d3 1E-4
.ends cgdmos_C3M0040120K


.subckt cds_C3M0040120K d3 s

.param Cjo = 2256p
.param Vj  = 4.3
.param M   = 0.64

G12 d1 s value {
*+	if(V(d3,s)>0,
+		(Cjo/(1+(limit(v(d3,s),0.1,490)/Vj)**M))*ddt(v(d3,s));
*+		,
*+		0
*+			)
+			}
R_CDS d1 d3 1E-4



.ends cds_C3M0040120K

****************************************
.model bodydiode_C3M0040120K d(is=80n bv=1590 EG=4.72 n=9.1
+	rs=0.038  trs1=-0.00285  trs2=6u Tnom=25
+	tt=0.5n ibv=500u Xti=0.13 level=1)
